US05284739
2-(Trifluoroacetamido)benzamide
2-Aminobenzamide (70.0 g, 0.52 mole) was dissolved in THF (300 ml) and cooled in an ice-bath. Trifluoroacetic anhydride (72.8 ml, 0.52 mole) was added dropwise with stirring over a period of one hour. After stirring a further 2 hours, the white suspension which had formed was poured onto ice-water (11). The white precipitate was collected by filtration and air dried. Yield of product was 73.5 g (62%).

reactant | 2-Aminobenzamide | 0.52 mole, 70.0 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | Trifluoroacetic anhydride | 0.52 mole, 72.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-(Trifluoroacetamido)benzamide | FC(C(=O)NC1=C(C(=O)N)C=CC=C1)(F)F | C9H7F3N2O2
